US07148226B2
4-Bromo-2-fluoro-N-methyl-benzamide
A solution of 4-bromo-2-fluorobenzoic acid (0.8 g, 3.7 mmol), methylamine (3.65 mL, 7.3 mmol), EDC (1.4 g, 7.3 mmol), triethylamine (1.0 mL, 7.3 mmol) dissolved in CH2Cl2(15 mL) was stirred under N2 for 24 h. The reaction mixture was partitioned between 1N HCl and EtOAc. The organic layers were washed with saturated NaHCO3, brine, dried over dried over Na2SO4 and concentrated. The residue was purified by silica gel chromatography (40% EtOAc in hexanes) to give the title compound as a white solid (0.27 g, 32%).

reactant | 4-bromo-2-fluorobenzoic acid | 3.7 mmol, 0.8 g | BrC1=CC(=C(C(=O)O)C=C1)F | C7H4BrFO2
reactant | methylamine | 7.3 mmol, 3.65 mL | CN | CH5N
reactant | EDC | 7.3 mmol, 1.4 g
reactant | triethylamine | 7.3 mmol, 1.0 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | 4-Bromo-2-fluoro-N-methyl-benzamide | 0.27 g, 32% | BrC1=CC(=C(C(=O)NC)C=C1)F | C8H7BrFNO
